US04493843
A stirred solution of 3-amino-4-methylbenzoic acid (15.1 g) in dry dimethylformamide (150 ml), containing triethylamine (20.2 g) was treated with n-hexadecanoyl chloride (27.5 g) during 30 minutes. The temperature of the reaction mixture was maintained at 25°-45° C. during the addition by water cooling. The mixture was then stirred for a further hour and was poured into water (1000 ml). The mixture was adjusted to pH 1 by the addition of concentrated hydrochloric acid (strength 0.6% w.v). The solid was collected, was washed with water and was recrystallised from ethanol (1500 ml) to give 3-(n-hexadecanamido)-4-methylbenzoic acid (22.0 g), in the form of a white solid, m.p. 238°-240° C.

reactant | 3-amino-4-methylbenzoic acid | 15.1 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
reactant | n-hexadecanoyl chloride | 27.5 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 1000 ml | O | H2O
product | 3-(n-hexadecanamido)-4-methylbenzoic acid | 22.0 g | C(CCCCCCCCCCCCCCC)(=O)NC=1C=C(C(=O)O)C=CC1C | C24H39NO3
